US05962479
4-(1-Ethyl-propoxy)-2-(4-methoxy-2,6-dimethyl-phenoxy)-3,6-dimethyl-pyridine
To a solution of 4-[4-(1-ethyl-propoxy)-3,6-dimethyl-pyridin-2-yloxy]-3,5-dimethyl-phenol (40 mg, 0.12mmol) in 3 ml of dry THF was added 10 mg of 60% sodium hydride in oil at room temperature. After stirring for 5 min, 0.3 ml of methyl iodide was added and the resulting mixture was stirred at room temperature overnight. The mixture was quenched with water and extracted with ethyl acetate. The organic layer was dried and concentrated to give a yellow solid. The solid was purified through silica gel column chromatography using hexane to 1:1 chloroform:hexane as eluent to yield 20 mg of the title compound as yellow solid. 1H NMR (CDCl3) δ6.66 (s, 2H), 6.28 (s, 1H), 4.20 (m, 1H), 3.79 (s, 3H), 2.20 (s, 3H), 2.19 (s, 3H0, 2.08 (s, 6H), 1.71 (m, 4H), 0.97 (t, 6H) ppm.

reactant | 4-[4-(1-ethyl-propoxy)-3,6-dimethyl-pyridin-2-yloxy]-3,5-dimethyl-phenol | 0.12mmol, 40 mg | C(C)C(CC)OC1=C(C(=NC(=C1)C)OC1=C(C=C(C=C1C)O)C)C | C20H27NO3
reactant | sodium hydride | 10 mg | [H-].[Na+]
reactant | methyl iodide | 0.3 ml | CI | CH3I
solvent | THF | 3 ml | C1CCOC1 | C4H8O
product | 4-(1-Ethyl-propoxy)-2-(4-methoxy-2,6-dimethyl-phenoxy)-3,6-dimethyl-pyridine | 20 mg | C(C)C(CC)OC1=C(C(=NC(=C1)C)OC1=C(C=C(C=C1C)OC)C)C | C21H29NO3
